US08877759B2
Preparation 24. Synthesis of 4-bromo-2-(methylsulfanylmethyl)pyridine
Crude 4-bromo-2-(bromomethyl)pyridine was dissolved in N,N-dimethylformamide (3.000 mL), and mixture was cooled on an ice bath followed by the portion wise addition of methylsulfanylsodium (2.037 g, 29.07 mmol). Reaction mixture was left to stir for 10 minutes. The mixture was diluted with ethyl acetate, organic layer was washed with water and brine. Organic layer was extracted, dried over MgSO4 and concentrated in vacuo to a solid. Residue was purification by silica gel column chromatography loaded with dichloromethane and eluted with 50% diethylether/petroleum ether. Product fractions were combined and concentrated in vacuo to give the sub-titled product (0.8 g, 12.6%). 1H NMR (400.0 MHz, DMSO-d6) δ 2.25 (s, 3H), 3.80 (s, 2H), 7.4 (d, 1H), 7.6 (s, 1H), 8.4 (d, 1H); LC/MS m/z 220.1 [M+H]+.

reactant | 4-bromo-2-(bromomethyl)pyridine | BrC1=CC(=NC=C1)CBr | C6H5Br2N
reactant | methylsulfanylsodium | 29.07 mmol, 2.037 g | CS[Na]
solvent | N,N-dimethylformamide | 3.000 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-2-(methylsulfanylmethyl)pyridine | 0.8 g, 12.6% | BrC1=CC(=NC=C1)CSC | C7H8BrNS
